US05149714
Step B: CIS and TRANS-2,3-dihydro-1-phenoxy-N,N-dimethyl-1H-inden-2-amine
Stir a solution of TRANS-2,3-dihydro-2-dimethylamino methyl-inden-1-ol (7.65 g, 0.04 M) triphenylphosphine (11.54 g, 0.044 M), and phenol (4.14 g, 0.044 M) in 100 ml of tetrahydrofuran. Slowly add a solution of diethyl azodicarboxylate in 50 ml of tetrahydrofuran dropwise. Stir the mixture overnight and evaporate the solvent. Take up the residue in ether, filter insoluble material and reconcentrate. Chromatograph the residue on silica gel eluting with ether to yield two isomers, CIS and TRANS, with the CIS isomer eluting first.

reactant | TRANS-2,3-dihydro-2-dimethylamino methyl-inden-1-ol | 0.04 M, 7.65 g | CN(C)C[C@H]1[C@@H](C2=CC=CC=C2C1)O | C12H17NO
reactant | phenol | 0.044 M, 4.14 g | C1(=CC=CC=C1)O | C6H6O
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | TRANS-2,3-dihydro-1-phenoxy-N,N-dimethyl-1H-inden-2-amine | O(C1=CC=CC=C1)[C@H]1[C@@H](CC2=CC=CC=C12)N(C)C | C17H19NO
